US05922737
Combine (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine (1.5 g, 5.2 mmol) and tetrahydrofuran (45 mL) and dimethylformamide (5 mL). Cool in an ice bath. Add sodium hydride (0.25 g, 60% in oil, 6.24 mmol). Warm to ambient temperature. After about 90 minutes, when the gas evolution ceases, add 2-(chloromethyl)furan (1.04 g, 8.5 mmol). After 56 hours, add ice and then a saturated aqueous solution of ammonium chloride. Evaporate the reaction mixture to remove most of the tetrahydrofuran, dilute with ethyl acetate and extract with a saturated aqueous sodium bicarbonate solution, water, and then brine. Dry the organic layer over MgSO4, filter and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine: Rf =0.29 (silica gel, ethyl acetate).

reactant | (1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | 5.2 mmol, 1.5 g | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
reactant | sodium hydride | 6.24 mmol, 0.25 g | [H-].[Na+]
reactant | 2-(chloromethyl)furan | 8.5 mmol, 1.04 g | ClCC=1OC=CC1 | C5H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C20H24N4O3
